US07989454B2
A solution of 4-[3-bromomethyl-2-((E)-2-ethoxycarbonyl-vinyl)-phenoxy]-butyric acid ethyl ester (2.0 mmol, 798 mg) and triphenylphosphine (2.2 mmol, 577 mg) in acetonitrile (12 mL) was heated to reflux for 1 h under nitrogen atmosphere. Then, it was cooled to room temperature and a solution of 5-(tert-butyl-dimethyl-silanyloxy)-pentanal (2.8 mmol, 606 mg) in 1,2-epoxybutane (22 mL) was added at room temperature and the mixture was again heated to reflux for 15 h. During this period, the mixture first turned to a brick red color and at the end of the reaction it had become a pale yellow solution. Then, the reaction mixture was cooled to room temperature and the solvent was removed under vacuum. The residue was dissolved in a solution of ethyl acetate and hexanes (1:3, 150 mL) and the resulting cloudy solution was washed with a mixture of methanol and water (2:1, 225 mL). The aqueous layer was extracted one more time with ethyl acetate and hexanes (1:3, 50 mL). The combined organic extracts were washed with brine solution (150 mL) and the organic solution was dried over anhydrous magnesium sulfate. Filtration of the drying agent and the removal of the solvent gave light brown oil. The crude mixture was purified by using a Biotage™ (40 L) column chromatograph eluting with 5 and 15% ethyl acetate in hexanes to obtain the desired 4-[3-[6-(tert-butyl-dimethyl-silanyloxy)-hex-1-enyl]-2-((E)-2-ethoxycarbonyl-vinyl)-phenoxy]-butyric acid ethyl ester (760 mg, 74%) as a colorless oil: ES(+)-HRMS m/e calculated for C29H46O6Si (M+Na)+ 541.2956, found 541.2953.

reactant | 4-[3-bromomethyl-2-((E)-2-ethoxycarbonyl-vinyl)-phenoxy]-butyric acid ethyl ester | 2.0 mmol, 798 mg | C(C)OC(CCCOC1=C(C(=CC=C1)CBr)\C=C\C(=O)OCC)=O | C18H23BrO5
reactant | triphenylphosphine | 2.2 mmol, 577 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-(tert-butyl-dimethyl-silanyloxy)-pentanal | 2.8 mmol, 606 mg | C(C)(C)(C)[Si](OCCCCC=O)(C)C | C11H24O2Si
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
solvent | 1,2-epoxybutane | 22 mL | O1CC1CC | C4H8O
product | 4-[3-[6-(tert-butyl-dimethyl-silanyloxy)-hex-1-enyl]-2-((E)-2-ethoxycarbonyl-vinyl)-phenoxy]-butyric acid ethyl ester | 760 mg, 74% | C(C)OC(CCCOC1=C(C(=CC=C1)C=CCCCCO[Si](C)(C)C(C)(C)C)\C=C\C(=O)OCC)=O | C29H46O6Si
